US04390541
Trans 1-methyl-4(1H)-quinolone-3-acrylic acid
A mixture of 1-methyl-3-formyl-4(1H)-quinolone (5.61 g) and malonic acid (4.5 g) in pyridine (45 ml) with 3 drops piperidine was heated on a steam-bath for two hours. The pyridine was removed in vacuo and the solid residue washed with water and dried. Recrystallisation from DMF/H2O gave the title compound. NMR confirmed the structure as pure trans-isomer, m.p. 248°-250° (with decomposition).

reactant | 1-methyl-3-formyl-4(1H)-quinolone | 5.61 g | CN1C=C(C(C2=CC=CC=C12)=O)C=O | C11H9NO2
reactant | malonic acid | 4.5 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | Trans 1-methyl-4(1H)-quinolone-3-acrylic acid | CN1C=C(C(C2=CC=CC=C12)=O)/C=C/C(=O)O | C13H11NO3
